* c:\users\vansh\esim-workspace\4_bit_flash_adc\4_bit_flash_adc.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
x1 vcc net-_x1-pad2_ net-_sc2-pad1_ vinp net-_u3-pad2_ gnd avsd_opamp
x10 vcc net-_x1-pad2_ net-_sc3-pad1_ vinp net-_u3-pad3_ gnd avsd_opamp
x2 vcc net-_x1-pad2_ net-_sc4-pad1_ vinp net-_u3-pad4_ gnd avsd_opamp
x11 vcc net-_x1-pad2_ net-_sc5-pad1_ vinp net-_u3-pad5_ gnd avsd_opamp
x9 vcc net-_x1-pad2_ net-_sc1-pad1_ vinp net-_u3-pad1_ gnd avsd_opamp
x3 vcc net-_x1-pad2_ net-_sc6-pad1_ vinp net-_u3-pad6_ gnd avsd_opamp
x12 vcc net-_x1-pad2_ net-_sc7-pad1_ vinp net-_u3-pad7_ gnd avsd_opamp
x4 vcc net-_x1-pad2_ net-_sc8-pad1_ vinp net-_u3-pad8_ gnd avsd_opamp
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ adc_bridge_8
v3 vcc gnd  dc 1.8
v4 gnd net-_x1-pad2_  dc 1.8
xsc1 net-_sc1-pad1_ vref net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc3 net-_sc3-pad1_ net-_sc2-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc4 net-_sc4-pad1_ net-_sc3-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc5 net-_sc5-pad1_ net-_sc4-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc6 net-_sc6-pad1_ net-_sc5-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc7 net-_sc7-pad1_ net-_sc6-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc8 net-_sc8-pad1_ net-_sc7-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc2 net-_sc2-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc17 net-_sc17-pad1_ output0 vcc sky130_fd_pr__res_generic_pd 
xsc18 net-_sc18-pad1_ output1 vcc sky130_fd_pr__res_generic_pd 
xsc19 net-_sc19-pad1_ output2 vcc sky130_fd_pr__res_generic_pd 
* u7  output0 plot_v1
* u8  output1 plot_v1
* u9  output2 plot_v1
v1 vref gnd  dc 0.9
v2  vinp gnd pulse(0 1.8 0.1m 200m 200m 2m 402m)
* u1  vref plot_v1
* u2  vinp plot_v1
* s c m o d e
x5 vcc net-_x1-pad2_ net-_sc10-pad1_ vinp net-_u4-pad2_ gnd avsd_opamp
x14 vcc net-_x1-pad2_ net-_sc11-pad1_ vinp net-_u4-pad3_ gnd avsd_opamp
x6 vcc net-_x1-pad2_ net-_sc12-pad1_ vinp net-_u4-pad4_ gnd avsd_opamp
x15 vcc net-_x1-pad2_ net-_sc13-pad1_ vinp net-_u4-pad5_ gnd avsd_opamp
x13 vcc net-_x1-pad2_ net-_sc10-pad2_ vinp net-_u4-pad1_ gnd avsd_opamp
x7 vcc net-_x1-pad2_ net-_sc14-pad1_ vinp net-_u4-pad6_ gnd avsd_opamp
x16 vcc net-_x1-pad2_ net-_sc15-pad1_ vinp net-_u4-pad7_ gnd avsd_opamp
x8 vcc net-_x1-pad2_ gnd vinp net-_u4-pad8_ gnd avsd_opamp
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ net-_u4-pad16_ adc_bridge_8
xsc9 net-_sc10-pad2_ net-_sc8-pad1_ net-_sc10-pad3_ sky130_fd_pr__res_generic_pd 
xsc11 net-_sc11-pad1_ net-_sc10-pad1_ net-_sc10-pad3_ sky130_fd_pr__res_generic_pd 
xsc12 net-_sc12-pad1_ net-_sc11-pad1_ net-_sc10-pad3_ sky130_fd_pr__res_generic_pd 
xsc13 net-_sc13-pad1_ net-_sc12-pad1_ net-_sc10-pad3_ sky130_fd_pr__res_generic_pd 
xsc14 net-_sc14-pad1_ net-_sc13-pad1_ net-_sc10-pad3_ sky130_fd_pr__res_generic_pd 
xsc15 net-_sc15-pad1_ net-_sc14-pad1_ net-_sc10-pad3_ sky130_fd_pr__res_generic_pd 
xsc16 gnd net-_sc15-pad1_ net-_sc10-pad3_ sky130_fd_pr__res_generic_pd 
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc10-pad3_ sky130_fd_pr__res_generic_pd 
* u5  net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ net-_u4-pad16_ net-_u5-pad17_ net-_u5-pad18_ net-_u5-pad19_ net-_u5-pad20_ balakrishna_priority_encoder
xsc20 net-_sc20-pad1_ output3 vcc sky130_fd_pr__res_generic_pd 
* u10  output3 plot_v1
* u6  net-_u5-pad17_ net-_u5-pad18_ net-_u5-pad19_ net-_u5-pad20_ net-_sc17-pad1_ net-_sc18-pad1_ net-_sc19-pad1_ net-_sc20-pad1_ dac_bridge_4
a1 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] u3
a2 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ ] [net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ net-_u4-pad16_ ] u4
a3 [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ net-_u4-pad16_ ] [net-_u5-pad17_ net-_u5-pad18_ net-_u5-pad19_ net-_u5-pad20_ ] u5
a4 [net-_u5-pad17_ net-_u5-pad18_ net-_u5-pad19_ net-_u5-pad20_ ] [net-_sc17-pad1_ net-_sc18-pad1_ net-_sc19-pad1_ net-_sc20-pad1_ ] u6
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             balakrishna_priority_encoder, NgSpice Name: balakrishna_priority_encoder
.model u5 balakrishna_priority_encoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 1e-00 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(output0)+7 v(output1)+14 v(output2)+21 v(output3)+28
plot v(vref) v(vinp) 
.endc
.end
