* c:\users\vansh\esim-workspace\opamp\opamp.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x1 net-_x1-pad1_ net-_x1-pad2_ vref vinp vout gnd avsd_opamp
v1 vref gnd  dc 0.9
v2  vinp gnd pulse(0 1.8 0.1m 200m 200m 2m 402m)
v3 net-_x1-pad1_ gnd  dc 1.8
v4 gnd net-_x1-pad2_  dc 1.8
* u3  vout plot_v1
* u1  vref plot_v1
* u2  vinp plot_v1
* s c m o d e
.tran 1e-03 1e-00 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout) 
plot v(vref) v(vinp)
.endc
.end
