* c:\users\vansh\downloads\priority_encoder\priority_encoder.cir

* u13  i0 i1 i2 i3 i4 i5 i6 i7 net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ net-_u13-pad12_ net-_u13-pad13_ net-_u13-pad14_ net-_u13-pad15_ net-_u13-pad16_ adc_bridge_8
v1  i0 i15 pulse(0 5 0.1m 0.1m 0.1m 1 2)
v2  i1 i15 pulse(0 10 0.1m 0.1m 0.1m 4 8)
v3  i2 i15 pulse(0 5 0.1m 0.1m 0.1m 20 40)
v4  i3 i15 pulse(0 10 0.1m 0.1m 0.1m 3 4)
v5  i4 i15 pulse(0 5 0.1m 0.1m 0.1m 50 65)
v6  i5 i15 pulse(0 10 0.1m 0.1m 0.1m 10 20)
v7  i6 i15 pulse(0 5 0.1m 0.1m 0.1m 5 10)
v8  i7 i15 pulse(0 10 0.1m 0.1m 0.1m 1 4)
* u1  i0 plot_v1
* u2  i1 plot_v1
* u3  i2 plot_v1
* u4  i3 plot_v1
* u5  i4 plot_v1
* u8  i7 plot_v1
* u7  i6 plot_v1
* u6  i5 plot_v1
* u9  o0 plot_v1
* u10  o1 plot_v1
* u11  o2 plot_v1
r3  net-_r3-pad1_ o2 1k
r2  net-_r2-pad1_ o1 1k
r1  net-_r1-pad1_ o0 1k
* u21  net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ net-_u13-pad12_ net-_u13-pad13_ net-_u13-pad14_ net-_u13-pad15_ net-_u13-pad16_ net-_u21-pad9_ net-_u21-pad10_ net-_u21-pad11_ net-_u21-pad12_ net-_u21-pad13_ net-_u21-pad14_ net-_u21-pad15_ net-_u21-pad16_ net-_u21-pad17_ net-_u21-pad18_ net-_u21-pad19_ net-_u21-pad20_ bala_priority_encoder
* u22  net-_u21-pad17_ net-_u21-pad18_ net-_u21-pad19_ net-_u21-pad20_ net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ net-_r4-pad1_ dac_bridge_4
r4  net-_r4-pad1_ o3 1k
* u12  o3 plot_v1
v9  i8 i15 pulse(0 5 0.1m 0.1m 0.1m 1 2)
v10  i9 i15 pulse(0 10 0.1m 0.1m 0.1m 4 8)
v11  i10 i15 pulse(0 5 0.1m 0.1m 0.1m 20 40)
v12  i11 i15 pulse(0 10 0.1m 0.1m 0.1m 3 4)
v13  i12 i15 pulse(0 5 0.1m 0.1m 0.1m 50 65)
v14  i13 i15 pulse(0 10 0.1m 0.1m 0.1m 10 20)
v15  i14 i15 pulse(0 5 0.1m 0.1m 0.1m 5 10)
v16  net-_u23-pad7_ i15 pulse(0 10 0.1m 0.1m 0.1m 1 4)
* ua1  i8 plot_v1
* u14  i9 plot_v1
* u15  i10 plot_v1
* u16  i11 plot_v1
* u17  i12 plot_v1
* u18  i13 plot_v1
* u19  i14 plot_v1
* u20  i15 plot_v1
* u23  i8 i9 i10 i11 i12 i13 net-_u23-pad7_ i14 net-_u21-pad9_ net-_u21-pad10_ net-_u21-pad11_ net-_u21-pad12_ net-_u21-pad13_ net-_u21-pad14_ net-_u21-pad15_ net-_u21-pad16_ adc_bridge_8
a1 [i0 i1 i2 i3 i4 i5 i6 i7 ] [net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ net-_u13-pad12_ net-_u13-pad13_ net-_u13-pad14_ net-_u13-pad15_ net-_u13-pad16_ ] u13
a2 [net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ net-_u13-pad12_ net-_u13-pad13_ net-_u13-pad14_ net-_u13-pad15_ net-_u13-pad16_ net-_u21-pad9_ net-_u21-pad10_ net-_u21-pad11_ net-_u21-pad12_ net-_u21-pad13_ net-_u21-pad14_ net-_u21-pad15_ net-_u21-pad16_ ] [net-_u21-pad17_ net-_u21-pad18_ net-_u21-pad19_ net-_u21-pad20_ ] u21
a3 [net-_u21-pad17_ net-_u21-pad18_ net-_u21-pad19_ net-_u21-pad20_ ] [net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ net-_r4-pad1_ ] u22
a4 [i8 i9 i10 i11 i12 i13 net-_u23-pad7_ i14 ] [net-_u21-pad9_ net-_u21-pad10_ net-_u21-pad11_ net-_u21-pad12_ net-_u21-pad13_ net-_u21-pad14_ net-_u21-pad15_ net-_u21-pad16_ ] u23
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             bala_priority_encoder, NgSpice Name: bala_priority_encoder
.model u21 bala_priority_encoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u22 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u23 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 20e-00 200e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(i0)
plot v(i1)
plot v(i2)
plot v(i3)
plot v(i4)
plot v(i7)
plot v(i6)
plot v(i5)
plot v(o0)
plot v(o1)
plot v(o2)
plot v(o3)
plot v(i8)
plot v(i9)
plot v(i10)
plot v(i11)
plot v(i12)
plot v(i13)
plot v(i14)
plot v(i15)
.endc
.end
